US07625924B2
(3S)-1-Azabicyclo[2.2.2]oct-3-yl 6-(5-methyl-1,3-thiazol-2-yl)-1H-indazole-3-carboxylate hydroformate
To a solution of 6-(5-methyl-1,3-thiazol-2-yl)-1H-indazole-3-carboxylic acid (0.50 mmol), (3R)-quinuclidin-3-ol (0.57 mmol), and triphenylphosphine (0.57 mmol) in tetrahydrofuran (5 mL) at 0° C. was added a solution of diisopropyl azodicarboxylate (0.57 mmol) in tetrahydrofuran (1 mL). The mixture was allowed to warm to rt over 2 hours and was maintained for 16 h. The mixture was loaded on a SCX column (5 g) and was washed with methanol. Product was eluted with methanol/dimethylethylamine (9/1) and concentrated. The residue was purified by preparative HPLC to produce the desired product in 1% yield. 1H NMR (CD3OD) δ 8.65 (s, 1 H), 8.51 (s, 1 H), 8.04 (d, J=6.0, 1H), 7.74 (d, J=6.0, 1 H), 7.55 (s, 1 H), 5.45 (m, 1 H), 3.81 (m, 1 H), 3.45-3.20 (m, 5H), 2.55 (s, 3 H), 2.55 (m, 1 H), 2.36 (m, 1 H), 2.21-1.93 (m, 3 H); LC/MS (EI) tR 4.7 min, m/z 369 (M++1).

reactant | 6-(5-methyl-1,3-thiazol-2-yl)-1H-indazole-3-carboxylic acid | 0.50 mmol | CC1=CN=C(S1)C1=CC=C2C(=NNC2=C1)C(=O)O | C12H9N3O2S
reactant | (3R)-quinuclidin-3-ol | 0.57 mmol | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | triphenylphosphine | 0.57 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.57 mmol | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (3S)-1-Azabicyclo[2.2.2]oct-3-yl 6-(5-methyl-1,3-thiazol-2-yl)-1H-indazole-3-carboxylate | 1% yield | CC1=CN=C(S1)C1=CC=C2C(=NNC2=C1)C(=O)O[C@@H]1CN2CCC1CC2 | C19H20N4O2S
